US03980657
10.0 g of chromium trioxide are added in portions at 5°C, whilst stirring and with exclusion of moisture, to a solution of 15.8 ml of pyridine in 200 ml of absolute methylene chloride, behind a protective shield. After the completion of the addition the mixture is stirred for a further 30 minutes at room temperature, 2.8 g of crude 2-[(p-cyclohexylphenyl)-hydroxymethyl]-pyridine, dissolved in 10 ml of methylene chloride, are then added all at once and the mixture is stirred for a further 20 minutes at room temperature. The mixture is decanted off from the brown resin which is formed and is partitioned at 0°C between 50 ml of methylene chloride and 2 lots of 50 ml of saturated sodium bicarbonate solution. The organic phase is washed successively with twice 50 ml of 0.1 N hydrochloric acid and twice 50 ml of water, dried over sodium sulphate and evaporated in vacuo. Chromatography of the evaporation residue on 200 g of silica gel, using chloroform as eluant, and fractional crystallisation from cold ethanol, yields 2-[(p-cyclohexylphenyl)-oxomethyl]-pyridine of the formula ##SPC11##

reactant | pyridine | 15.8 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-[(p-cyclohexylphenyl)-hydroxymethyl]-pyridine | 2.8 g | C1(CCCCC1)C1=CC=C(C=C1)C(C1=NC=CC=C1)O | C18H21NO
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | 10.0 g | [O-2].[O-2].[O-2].[Cr+6]
product | 2-[(p-cyclohexylphenyl)-oxomethyl]-pyridine | C1(CCCCC1)C1=CC=C(C=C1)C(C1=NC=CC=C1)=O | C18H19NO
